US08283354B2
A 2.0 M HCl solution in Et2O (212 μL, 0.42 mmol) was slowly added at room temperature to a stirring solution of 3-hydroxymethyl-4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazine-1-carboxylic acid benzyl ester (206 mg, 0.42 mmol) in 500 μL of CH2Cl2. The reaction was stirred for 1 hour. Solvents were removed under reduced pressure, and the residue was triturated with Et2O and filtered to give benzyl 3-(hydroxymethyl)-4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazine-1-carboxylate hydrochloride. LC/MS: m/z 485.5 (M+H)+ at 3.07 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA))

reactant | HCl | 2.0 M | Cl | ClH
reactant | Et2O | 0.42 mmol, 212 μL | CCOCC | C4H10O
reactant | 3-hydroxymethyl-4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazine-1-carboxylic acid benzyl ester | 0.42 mmol, 206 mg | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CO | C28H28N4O4
solvent | CH2Cl2 | 500 μL | C(Cl)Cl | CH2Cl2
product | benzyl 3-(hydroxymethyl)-4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazine-1-carboxylate hydrochloride | Cl.OCC1CN(CCN1C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)C(=O)OCC1=CC=CC=C1 | InChI=1S/C28H28N4O4.ClH/c1-19-11-12-22-24(15-19)29-26(23-9-5-6-10-25(23)34)30-27(22)32-14-13-31(16-21(32)17-33)28(35)36-18-20-7-3-2-4-8-20;/h2-12,15,21,33-34H,13-14,16-18H2,1H3;1H
